US05089505
3-Iodophenethyl bromide
A mixture of 3-iodophenethyl alcohol (see Preparation 26) (1.2 g) and 48% aqueous hydrobromic acid (20 ml) was stirred at room temperature for 8 hours, poured into water and extracted into methylene chloride. The organic extracts were washed with saturated aqueous sodium hydrogen carbonate solution and water, dried over sodium sulphate and evaporated to give the title compound as a pale brown oil (1.1 g, 73%), which was characterised by its 1H-n.m.r. spectrum.

reactant | 3-iodophenethyl alcohol | 1.2 g | IC=1C=C(CCO)C=CC1 | C8H9IO
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | water | O | H2O
product | 3-Iodophenethyl bromide | 1.1 g, 73% | IC=1C=C(CCBr)C=CC1 | C8H8BrI
